US06160145
Bis(1-butyl-3-methylcyclopentadienyl)zirconium dimethyl (MET-B)
Bis(1-butyl-3-methylcyclopentadienyl)zirconium dichloride (2.71 g, 6.26 mmol) was dissolved in 21.4 g of toluene. Low-halide MeLi (~ 1.5 M in ether, 8.0 mL) was added dropwise at ambient temperature. A white solid formed immediately. The reaction was allowed to stir for 1.5 hours. Analysis of the reaction showed 3.5 mol % of mono-methyl intermediate. An additional aliquot of MeLi (0.4 mL) was then added to consume the monomethyl intermediate. After stirring overnight, the supernatant liquid was reanalyzed to verify that the reaction was complete. The slurry was filtered on a medium frit and the solvent was removed in vacuo. A light yellow liquid of bis(1-butyl-3-methylcyclopentadienyl)zirconium dimethyl remained (2.13 g, 87% yield).

reactant | Bis(1-butyl-3-methylcyclopentadienyl)zirconium dichloride | 6.26 mmol, 2.71 g | [Cl-].[Cl-].C(CCC)C1(C=C(C=C1)C)[Zr+2]C1(C=C(C=C1)C)CCCC
reactant | MeLi | 0.4 mL | [Li]C
solvent | toluene | 21.4 g | C1(=CC=CC=C1)C | C7H8
product | Bis(1-butyl-3-methylcyclopentadienyl)zirconium dimethyl | 87% yield | [CH3-].[CH3-].CCCC[C-]1C=CC(=C1)C.CCCC[C-]1C=CC(=C1)C.[Zr+4] | InChI=1S/2C10H15.2CH3.Zr/c2*1-3-4-5-10-7-6-9(2)8-10;;;/h2*6-8H,3-5H2,1-2H3;2*1H3;/q4*-1;+4
